US06943159B1
5-Iodo-4-methyl-2-aminobenzenesulfonamide:
A stirred suspension of 4-methyl-2-aminobenzenesulfonamide (620 mg; 3.3 mmol) in CHCl3 (7 ml) at 0° C. was added a solution of iodine monochloride (1.6 g; 9.9 mmol) in CHCl3 (7 ml). The reaction mixture was stirred at 0° C. until H-NMR indicated full conversion of starting material. The reaction mixture was filtered and the isolated solid washed with small volumes of CHCl3, NaHCO3 (sat. aq.), H2O and air dried to give 640 mg (62%) of product.

reactant | 4-methyl-2-aminobenzenesulfonamide | 3.3 mmol, 620 mg | CC1=CC(=C(C=C1)S(=O)(=O)N)N | C7H10N2O2S
reactant | iodine monochloride | 9.9 mmol, 1.6 g | ICl | ClI
solvent | CHCl3 | 7 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Iodo-4-methyl-2-aminobenzenesulfonamide | 640 mg, 62% | IC=1C(=CC(=C(C1)S(=O)(=O)N)N)C | C7H9IN2O2S
